US08383660B2
N-[3,5-Bis(trifluoromethyl)benzyl]-2-methyl-N-[2-(1-morpholin-4-ylethyl)-5-(trifluoromethyl)benzyl]-2H-tetrazol-5-amine
To a solution of benzotriazole (12.8 mg, 0.1075 mmoles) in ethanol (2 mL) was added morpholine (9.4 mg, 0.1075 mmoles) and the reaction was stirred for 10 minutes. A solution of 2-{[(3,5-bis-trifluoromethyl-benzyl)-(2-methyl-2H-tetrazol-5-yl)-amino]-methyl}-4-trifluoromethyl-benzaldehyde (50 mg, 0.0977 mmoles) in ethanol (1 mL) was added to the reaction mixture and it was further stirred for 16 hours. The imine fragment was observed MH+=581.4. Parent ion for the intermediate was not found. The ethanol was evaporated and the crude product was taken to the next step. Half of the crude was dissolved in toluene and methyl magnesium bromide (97 □L, 0.2916 mmoles of a 3M solution in ether) was added. The reaction mixture was heated at reflux for 2 hours. LC-MS indicated formation of product. The solvent was evaporated from the reaction mixture. 1N NaOH solution was added and the aqueous layer was extracted with dichloromethane. The organic layer was concentrated and the residue was dissolved in DMSO and purified on prepHPLC (Shimadzu, 30×50 C18, Basic, 30-95%, 0.1% NaOH, 8 min gradient, 220 UV) to yield 8.2 mg (28%) of the title compound as clear oil. MS (ES+) Calc: 596.4, Found: 597.2 (M+1).

reactant | benzotriazole | 0.1075 mmoles, 12.8 mg | N1N=NC2=C1C=CC=C2 | C6H5N3
reactant | morpholine | 0.1075 mmoles, 9.4 mg | N1CCOCC1 | C4H9NO
reactant | 2-{[(3,5-bis-trifluoromethyl-benzyl)-(2-methyl-2H-tetrazol-5-yl)-amino]-methyl}-4-trifluoromethyl-benzaldehyde | 0.0977 mmoles, 50 mg | FC(C=1C=C(CN(C=2N=NN(N2)C)CC2=C(C=O)C=CC(=C2)C(F)(F)F)C=C(C1)C(F)(F)F)(F)F | C20H14F9N5O
solvent | ethanol | 2 mL | C(C)O | C2H6O
solvent | ethanol | 1 mL | C(C)O | C2H6O
product | N-[3,5-Bis(trifluoromethyl)benzyl]-2-methyl-N-[2-(1-morpholin-4-ylethyl)-5-(trifluoromethyl)benzyl]-2H-tetrazol-5-amine | 8.2 mg, 28% | FC(C=1C=C(CN(C=2N=NN(N2)C)CC2=C(C=CC(=C2)C(F)(F)F)C(C)N2CCOCC2)C=C(C1)C(F)(F)F)(F)F | C25H25F9N6O
